US07652055B2
a) (4-Bromo-3-chloro-phenylamino)-acetic acid ethyl ester
To a solution of 4-bromo-3-chloro-aniline (0.64 g, 3.10 mmol) in ethanol (7 ml) were added sodium carbonate (0.49 g, 4.65 mmol) and ethyl bromoacetate (0.38 ml, 3.41 mmol). The resulting suspension was stirred at room temperature for 10 min and was then heated at 100° C. for 30 min under microwave irradiation. The mixture was then cooled to room temperature, diluted with ether, and filtered. The filtrate was washed with 1 M aqueous hydrochloric acid, the phases separated, and the aqueous phase extracted with ether. The combined organic extracts were dried over sodium sulphate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (SiO2: heptane/ethyl acetate=gradient 100:0-70:30) to yield a brown oil (0.56 g, 62%); MS (ISP): 296.1, 294.1, 292.1 ([M+H]+.).

reactant | 4-bromo-3-chloro-aniline | 3.10 mmol, 0.64 g | BrC1=C(C=C(N)C=C1)Cl | C6H5BrClN
reactant | sodium carbonate | 4.65 mmol, 0.49 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl bromoacetate | 3.41 mmol, 0.38 ml | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | (4-Bromo-3-chloro-phenylamino)-acetic acid ethyl ester | 0.56 g, 62% | C(C)OC(CNC1=CC(=C(C=C1)Br)Cl)=O | C10H11BrClNO2
